US04111934
Preparation of 7-chloro-3,5-dihydro-2-(N-nitrosomethylamino)-5-phenyl-4H-1,5-benzodiazepin-4-one
A mixture of 6 g (0.02 mol) of 7-chloro-3,5-dihydro-2-methylamino-5-phenyl-4H-1,5-benzodiazepin-4-one, 25 ml of glacial acetic acid and 1.75 g (0.025 mol) of sodium nitrite was stirred stirred at 10°-20° for 1 hr. The reaction mixture was diluted with ice and water and stirred for another 15 min. The precipitated material was collected and dissolved in methylene chloride. The solution was washed with sodium bicarbonate solution, dried over sodium sulfate and evaporated. Crystallization from methylene chloride/hexane yielded the above-named product as yellow crystals, with mp 120°-125°. For analysis it was recrystallized like form methylene chloride/hexane, mp. 122°-125°.

reactant | 7-chloro-3,5-dihydro-2-methylamino-5-phenyl-4H-1,5-benzodiazepin-4-one | 0.02 mol, 6 g | ClC1=CC2=C(N=C(CC(N2C2=CC=CC=C2)=O)NC)C=C1 | C16H14ClN3O
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 0.025 mol, 1.75 g | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 7-chloro-3,5-dihydro-2-(N-nitrosomethylamino)-5-phenyl-4H-1,5-benzodiazepin-4-one | ClC1=CC2=C(N=C(CC(N2C2=CC=CC=C2)=O)NCN=O)C=C1 | C16H13ClN4O2
